US04845118
3-Chloro-4-methoxy-2-picoline-N-oxide
To a solution of sodium methylate, prepared from 0.51 g of sodium and 20 ml of methanol, at -10° C. were added 3.5 g of 3,4-dichloro-2-picoline-N-oxide in 20 ml of anhydrous methanol. The mixture was allowed to warm slowly to room temperature and was then heated to reflux for 1 hour. The solvent was now removed by distillation under reduced pressure, water was added to the residue, the mixture was extracted with dichloromethane, and the solvent was evaporated off. Colorless crystals from diisopropyl ether, melting point 94°-97° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.51 g | [Na] | Na
reactant | 3,4-dichloro-2-picoline-N-oxide | 3.5 g | ClC1=C([N+](=CC=C1Cl)[O-])C | C6H5Cl2NO
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3-Chloro-4-methoxy-2-picoline-N-oxide | ClC1=C([N+](=CC=C1OC)[O-])C | C7H8ClNO2
